US07592453B2
(4-Formyl-1H-imidazol-1-yl)methyl pivalate
To a suspension of sodium hydride (60% in oil, 1.0 g, 26 mmol) in tetrahydrofuran (10 ml) was added dropwise a solution of 1H-imidazole-4-carbaldehyde (1.92 g, 20 mmol) in DMF (5 ml) at 0° C., and the mixture was stirred at room temperature for 1 hr. Chloromethyl pivalate (3.92 g, 26 mmol) was further added dropwise at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The extract was washed with 6% aqueous sodium hydrogen carbonate solution and saturated brine, dried (over anhydrous MgSO4), and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography using silica gel (100 g), and eluted with hexane-ethyl acetate (4:1-1:2, v/v) to give the title compound (4.11 g, 98%) as a pale-yellow oil.

reactant | sodium hydride | 26 mmol, 1.0 g | [H-].[Na+]
reactant | 1H-imidazole-4-carbaldehyde | 20 mmol, 1.92 g | N1C=NC(=C1)C=O | C4H4N2O
reactant | Chloromethyl pivalate | 26 mmol, 3.92 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (4-Formyl-1H-imidazol-1-yl)methyl pivalate | 4.11 g, 98% | C(C(C)(C)C)(=O)OCN1C=NC(=C1)C=O | C10H14N2O3
